US04159374
A mixture of 2',5-dichloro-2-(3-dimethylcarbamoyl-5-carbobenzoxyaminomethyl-1,2,4-triazol- 1-yl)benzophenone (3.6 g) and 30% hydrogen bromide-acetic acid (9 ml) is stirred at room temperature for 2 hours. The reaction mixture is mixed with ether, and the precipitate is isolated by decantation and washed thrice with ether, whereby 2',5-dichloro-2-(3-dimethylcarbamoyl-5-aminomethyl-1,2,4-triazol- 1-yl)-benzophenone hydrobromide is obtained. This hydrobromide (1.2 g) is added to a solution of chloroacetyl chloride (1.2 g) in benzene (40 ml) to give a solution, which is mixed with dimethylformamide (20 ml). The resultant mixture is stirred at room temperature for 3 hours. The reaction mixture is mixed with ethyl acetate and neutralized with aqueous sodium bicarbonate. The organic layer is separated, washed with water, dried, and evaporated under reduced pressure to remove the solvent. The residue is treated with ethanol/n-hexane to give 2',5-dichloro-2-[3-dimethylcarbamoyl-5-(2-chloroacetylamino)methyl-1,2,4-triazol- 1-yl]-benzophenone (12.9 g), which is recrystallized from ethyl acetate to give colorless needles melting at 80°-82° C.

reactant | 2',5-dichloro-2-(3-dimethylcarbamoyl-5-carbobenzoxyaminomethyl-1,2,4-triazol- 1-yl)benzophenone | 3.6 g | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1N=C(N=C1CNC(=O)OCC1=CC=CC=C1)C(N(C)C)=O)=O | C27H23Cl2N5O4
reactant | hydrogen bromide acetic acid | 9 ml | Br.C(C)(=O)O
solvent | ether | CCOCC | C4H10O
product | 2',5-dichloro-2-(3-dimethylcarbamoyl-5-aminomethyl-1,2,4-triazol- 1-yl)-benzophenone hydrobromide | Br.ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1N=C(N=C1CN)C(N(C)C)=O)=O | InChI=1S/C19H17Cl2N5O2.BrH/c1-25(2)19(28)18-23-16(10-22)26(24-18)15-8-7-11(20)9-13(15)17(27)12-5-3-4-6-14(12)21;/h3-9H,10,22H2,1-2H3;1H
